US04117128
2-n-Butyl-3-[4-(2-diethylaminoethoxy)phenylsulfonyl]benzofuran
To a solution of 1.4 g. (0.0042 mol.) of 2-n-butyl-3-(4-hydroxyphenylsulfonyl)benzofuran in 20 ml. of methanol was added 25 ml. of methanol containing 110 mg. (0.0048 g.-atom) of sodium. The reaction mixture was heated on a steam bath for 30 minutes then evaporated to dryness. The residue was dissolved in 25 ml. of toluene and ca. 1 ml. of methanol, a suspension of 0.615 g. (0.0048 mol.) of distilled 2-diethylaminoethyl chloride in 15 ml. of toluene was added and the resulting mixture was heated on a steam bath for 3 hours. The solution was filtered through MgSO4 and chromatographed on silica gel with 50:50 ether-acetone to give the title compound.

reactant | 2-n-butyl-3-(4-hydroxyphenylsulfonyl)benzofuran | 0.0042 mol | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C18H18O4S
reactant | methanol | CO | CH4O
reactant | methanol | 110 mg | CO | CH4O
reactant | sodium | 0.0048 g | [Na] | Na
reactant | 2-diethylaminoethyl chloride | 0.0048 mol | C(C)N(CCCl)CC | C6H14ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-n-Butyl-3-[4-(2-diethylaminoethoxy)phenylsulfonyl]benzofuran | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCCN(CC)CC)C=CC=C2 | C24H31NO4S
